US05061717
2-(4-Diethoxymethylphenyl)ethanol
To a solution of 4-(diethoxymethyl)benzaldehyde (5.0 g, 24 mmol) in ether (65 ml), cooled to -10° C., was added dropwise a 1.5M toluene-THF methylmagnesium bromide solution (64 ml, 96 mmol) at such a rate that the temperature remains below 0° C. After the addition the reaction was quenched with saturated ammonium chloride (80 ml) and the solution was diluted with water (50 ml) and extracted with ether (2×75 ml). The combined extracts were washed with water (50 ml) and brine (50 ml), dried over sodium sulfate and concentrated in vacuo, leaving present title product (5.2 g, 97%) as an oil.

reactant | 4-(diethoxymethyl)benzaldehyde | 24 mmol, 5.0 g | C(C)OC(C1=CC=C(C=O)C=C1)OCC | C12H16O3
reactant | ether | 65 ml | CCOCC | C4H10O
product | 2-(4-Diethoxymethylphenyl)ethanol | 5.2 g, 97% | C(C)OC(C1=CC=C(C=C1)CCO)OCC | C13H20O3
